US04006144
5.4 g of 1-carbethoxy-4-(10,11-dihydro-2-methyl-dibenzo-[b,f]thiepin-10-yl)-piperazine, 80 ml of ethylene glycol, 4.64 g of potassium hydroxide and 0.33 ml of water and heated for 0.75 hour at 160° C. Then the mixture is poured on to water, extracted with ether, the extracts washed with saturated sodium chloride solution, dried over sodium sulphate and evaporated. There is obtained 1-(10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine as an oil.

reactant | 1-carbethoxy-4-(10,11-dihydro-2-methyl-dibenzo-[b,f]thiepin-10-yl)-piperazine | 5.4 g | C(=O)(OCC)N1CCN(CC1)C1CC2=C(SC3=C1C=CC=C3)C=CC(=C2)C | C22H26N2O2S
reactant | ethylene glycol | 80 ml | C(CO)O | C2H6O2
reactant | potassium hydroxide | 4.64 g | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 0.33 ml | O | H2O
product | 1-(10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-yl)-piperazine | CC1=CC2=C(SC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C19H22N2S
